US07973069B2
To a solution of trifluoro-methanesulfonic acid 3-cyano-1-cyclobutyl-2-[4-(1-cyclopropyl-ethoxycarbonylamino)-phenyl]-1H-indol-6-yl ester prepared as in Example 1CU Step A (200 mg, 0.37 mmol) in DMF (2.0 mL) was added 2-(tributylstannyl)pyridine (160 mg, 0.44 mmol), Pd(PPh3)4 (21 mg, 0.018 mmol), CuI (7 mg, 0.037 mmol) and CsF (111 mg, 0.73 mmol). The mixture was stirred at 80° C. for 2 h, treated with ether (20 mL) and potassium fluoride (0.5 g). The mixture was stirred for another hour and filtered. The filtrate was washed with water and brine, dried over Na2SO4, concentrated and purified on silica gel (CH2Cl2/EtOAc) to provide [4-(3-cyano-1-cyclobutyl-6-pyridin-2-yl-1H-indol-2-yl)-phenyl]-carbamic acid 1-cyclopropyl-ethyl ester as a solid (82 mg, 47%).

reactant | trifluoro-methanesulfonic acid 3-cyano-1-cyclobutyl-2-[4-(1-cyclopropyl-ethoxycarbonylamino)-phenyl]-1H-indol-6-yl ester | C(#N)C1=C(N(C2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F)C1CCC1)C1=CC=C(C=C1)NC(=O)OC(C)C1CC1 | C26H24F3N3O5S
reactant | 2-(tributylstannyl)pyridine | 0.44 mmol, 160 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
reactant | CsF | 0.73 mmol, 111 mg | [F-].[Cs+]
reactant | potassium fluoride | 0.5 g | [F-].[K+]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.018 mmol, 21 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.037 mmol, 7 mg | [Cu]I
solvent | ether | 20 mL | CCOCC | C4H10O
product | [4-(3-cyano-1-cyclobutyl-6-pyridin-2-yl-1H-indol-2-yl)-phenyl]-carbamic acid 1-cyclopropyl-ethyl ester | 82 mg, 47% | C1(CC1)C(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)C1=NC=CC=C1)C1CCC1)=O | C30H28N4O2
